US04430355
A mixture of 0.2 gm (0.77 millimols) of N-tert. butyl-5-methyl-thieno[3,2-d]isothiazole-3(2H)-one-1,1-dioxide and o-dichloro-benzene was refluxed for 8 hours. After cooling, the reaction mixture was distributed between a mixture of ether and aqueous sodium bicarbonate solution. The separated aqueous solution was acidified and extracted with methylene chloride. After evaporation and recrystallization from methanol, 0.13 gm (83% of theory) of 5-methyl-thieno[3,2-d]isothiazole-3(2H)-one-1,1-dioxide was obtained.

reactant | N-tert. butyl-5-methyl-thieno[3,2-d]isothiazole-3(2H)-one-1,1-dioxide | 0.77 millimols, 0.2 gm | C(C)(C)(C)N1S(C2=C(C1=O)C=C(S2)C)(=O)=O | C10H13NO3S2
reactant | o-dichloro-benzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
product | 5-methyl-thieno[3,2-d]isothiazole-3(2H)-one-1,1-dioxide | 0.13 gm, 83% | CC1=CC=2C(NS(C2S1)(=O)=O)=O | C6H5NO3S2
